US03932416
4-Butyloxyquinaldic acid (0.83 g) in dry dimethylformamide (25 ml) was treated with N,N'-carbonyldiimidazole (0.55 g) and the mixture stirred at 60° for 3 hours. 5-Aminotetrazole (0.35 g) was added and the solution kept 72 hours and evaporated to a volume of 5 ml. Dilute hydrochloric acid was added and the 4-butyloxy-N(1H-tetrazol-5-yl)quinaldamide formed was crystallised from aqueous dimethylformamide, m.p. 282° (d).

reactant | 4-Butyloxyquinaldic acid | 0.83 g | C(CCC)OC1=CC(C(=O)O)=NC2=CC=CC=C12 | C14H15NO3
reactant | 5-Aminotetrazole | 0.35 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-butyloxy-N(1H-tetrazol-5-yl)quinaldamide | C(CCC)OC1=CC(C(=O)NC2=NN=NN2)=NC2=CC=CC=C12 | C15H16N6O2
